US06448242B1
Preparation of 1,3-bis[4-[(E)-5-(3,4,5-trimethoxyphenyl)-2-penten-4-ynoyl]-1-piperazinyl]propane dihydrochloride
Concentrated hydrochloric acid (0.060 ml; 0.72 mmol) was added to a solution of 1,3-bis[4-[(E)-5-(3,4,5-trimethoxyphenyl)-2-penten-4-ynoyl]-1-piperazinyl]propane (114 mg; 0.15 mmol) in ethanol (5 ml) and the reaction mixture was concentrated under reduced pressure. After a process of adding ethanol (10 ml) to the residue and concentrating the mixture under reduced pressure was performed twice, the resultant concentrated residue was recrystallized from ethanol-diethyl ether to obtain the title compound as a pale yellow crystalline powder.

reactant | hydrochloric acid | 0.72 mmol, 0.060 ml | Cl | ClH
reactant | 1,3-bis[4-[(E)-5-(3,4,5-trimethoxyphenyl)-2-penten-4-ynoyl]-1-piperazinyl]propane | 0.15 mmol, 114 mg | COC=1C=C(C=C(C1OC)OC)C#C/C=C/C(=O)N1CCN(CC1)CCCN1CCN(CC1)C(\C=C\C#CC1=CC(=C(C(=C1)OC)OC)OC)=O | C39H48N4O8
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 1,3-bis[4-[(E)-5-(3,4,5-trimethoxyphenyl)-2-penten-4-ynoyl]-1-piperazinyl]propane dihydrochloride | Cl.Cl.COC=1C=C(C=C(C1OC)OC)C#C/C=C/C(=O)N1CCN(CC1)CCCN1CCN(CC1)C(\C=C\C#CC1=CC(=C(C(=C1)OC)OC)OC)=O | InChI=1S/C39H48N4O8.2ClH/c1-46-32-26-30(27-33(47-2)38(32)50-5)12-7-9-14-36(44)42-22-18-40(19-23-42)16-11-17-41-20-24-43(25-21-41)37(45)15-10-8-13-31-28-34(48-3)39(51-6)35(29-31)49-4;;/h9-10,14-15,26-29H,11,16-25H2,1-6H3;2*1H/b14-9+,15-10+;;
